US09029536B2
E) 4-(1-Ethyl-1H-pyrazolo[3,4-b]pyrazin-3-yl)phenol
A mixture of 3-[4-(benzyloxy)phenyl]-1-ethyl-1H-pyrazolo[3,4-b]pyrazine (570 mg) and 10% Pd—C (50% wet, 200 mg) in MeOH (8 mL) and AcOEt (8 mL) was hydrogenated under balloon pressure at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (240 mg).

reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-1H-pyrazolo[3,4-b]pyrazine | 570 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C2=NC=CN=C21)CC | C20H18N4O
solvent | MeOH | 8 mL | CO | CH4O
solvent | AcOEt | 8 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 4-(1-Ethyl-1H-pyrazolo[3,4-b]pyrazin-3-yl)phenol | 240 mg | C(C)N1N=C(C=2C1=NC=CN2)C2=CC=C(C=C2)O | C13H12N4O
